US09255100B2
N-cyclopropyl-4-{6-(2-hydroxyphenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide
A mixture of 28.0 mg (53 μmol) N-cyclopropyl-4-{6-(2-methoxyphenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide which was prepared according to example 223, 44.8 mg sodium methanethiolate and 350 μL N,N-dimethylformamide was heated under microwave irradiation for 30 minutes at 120° C. The mixture was poured into water, the pH was adjusted between 7 and 8 by addition of ammonium chloride and extracted with a mixture of dichloromethane and methanol. The combined organic phases were dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 11.5 mg (40%) of the title compound.

reactant | N-cyclopropyl-4-{6-(2-methoxyphenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide | 53 μmol, 28.0 mg | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCCC(F)(F)F)OC2=C(C=CC=C2)OC)C)=O | C27H26F3N5O3
reactant | sodium methanethiolate | 44.8 mg | C[S-].[Na+]
reactant | N,N-dimethylformamide | 350 μL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
product | N-cyclopropyl-4-{6-(2-hydroxyphenoxy)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide | 11.5 mg, 40% | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCCC(F)(F)F)OC2=C(C=CC=C2)O)C)=O | C26H24F3N5O3
